US07429609B2
2.1 g of (tert-butoxycarbonyl-methyl-amino)-acetic acid was dissolved in 150 mL of tetrahydrofuran, and 4.64 mL of triethylamine and 1.51 mL of isobutyl chloroformate were added under stirring at ice-cooling. After stirring at room temperature for 10 minutes, N′-methyl-hydrazine carboxylic acid benzyl ester hydrochloride was added and stirred at room temperature for 50 minutes. The reaction solution was added with water, extracted with ethyl acetate, and the resultant organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, followed by purification by silica gel column chromatography (ethyl acetate:n-hexane=1:1), to afford 3.2 g of N′-[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-N′-methyl-hydrazine carboxylic acid benzyl ester. Subsequently, by conducting catalytic hydrogen reduction in accordance with Production example 365, 1.9 g of the title compound was obtained.

reactant | (tert-butoxycarbonyl-methyl-amino)-acetic acid | 2.1 g | C(C)(C)(C)OC(=O)N(C)CC(=O)O | C8H15NO4
reactant | triethylamine | 4.64 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.51 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N′-methyl-hydrazine carboxylic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)NNC
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N′-[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-N′-methyl-hydrazine carboxylic acid benzyl ester | 3.2 g | C(C1=CC=CC=C1)OC(=O)NN(C)C(CN(C)C(=O)OC(C)(C)C)=O | C17H25N3O5
